US06727264B1
N-(3-{1-[(2R)-2-(3-METHOXYPHENOXY)-2-PHENYLETHYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE:
Prepared by Procedure B and Scheme B1 using 3-methoxyphenol and N-(3-{1-[(2S)-2-hydroxy-2-phenylethyl]-4-piperidinyl}phenyl)-2-methylpropanamide: ESMS m/e: 472.9 (M+H)+.

reactant | 3-methoxyphenol | COC=1C=C(C=CC1)O | C7H8O2
reactant | N-(3-{1-[(2S)-2-hydroxy-2-phenylethyl]-4-piperidinyl}phenyl)-2-methylpropanamide | O[C@H](CN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)C1=CC=CC=C1 | C23H30N2O2
product | N-(3-{1-[(2R)-2-(3-METHOXYPHENOXY)-2-PHENYLETHYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE | COC=1C=C(O[C@@H](CN2CCC(CC2)C=2C=C(C=CC2)NC(C(C)C)=O)C2=CC=CC=C2)C=CC1 | C30H36N2O3
